US09278951B2
Synthesis of 1,3-bis(4-carboxybutyl)-4,5-dichloro-1H-imidazol-3-ium bromide
4,5-dichloroimidazole (1.00 g, 7.36 mmol) was dissolved in acetonitrile. Potassium hydroxide (0.828 g, 14.72 mmol) was added to the solution and allowed to reflux for 30 min. 2 equivalents of 2-bromopentanoic acid (2.66 g, 14.72 mmol) was added to the solution and refluxed for 5 h. Solution was filtered to remove the KBr precipitate and neutralized with 6M HBr. Volatiles were removed in vacuo and the resulting product will be collected and analyzed.

reactant | 4,5-dichloroimidazole | 7.36 mmol, 1.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 14.72 mmol, 0.828 g | [OH-].[K+]
reactant | 2-bromopentanoic acid | 14.72 mmol, 2.66 g, 2 equivalents | BrC(C(=O)O)CCC | C5H9BrO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,3-bis(4-carboxybutyl)-4,5-dichloro-1H-imidazol-3-ium bromide | [Br-].C(=O)(O)CCCCN1C=[N+](C(=C1Cl)Cl)CCCCC(=O)O | InChI=1S/C13H18Cl2N2O4.BrH/c14-12-13(15)17(8-4-2-6-11(20)21)9-16(12)7-3-1-5-10(18)19;/h9H,1-8H2,(H-,18,19,20,21);1H
